US07598249B2
4-Benzyl-piperidine-1-carboxylic acid p-tolylamide
The title compound was prepared from 4-benzylpiperidine and 4-phenylphenyl isocyanate. 1H NMR (400 MHz, CDCl3): 7.31-7.12 (m, 7H), 7.07 (d, J=8.0 Hz, 2H), 6.32 (s, 1H), 4.06-4.00 (m, 2H), 2.79 (td, J=13, 2.5 Hz, 2H), 2.56 (d, J=6.8 Hz, 2H), 2.28 (s, 3H), 1.79-0.165 (m, 3H), 1.30-1.18 (m, 2H).

reactant | 4-benzylpiperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | 4-phenylphenyl isocyanate | C1(=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO
product | 4-Benzyl-piperidine-1-carboxylic acid p-tolylamide | C1(=CC=C(C=C1)NC(=O)N1CCC(CC1)CC1=CC=CC=C1)C | C20H24N2O
